US06555560B2
3-[4-(1H-Indol-3-yl)-3,6-dihydro-2H-pyridin-1-ylmethyl]-2,3,6,7-tetrahydro-1,4,5-trioxa-phenanthren-8-one
To a mixture of [(2R)-7-oxo-2,3,8,9-tetrahydro-7H-[1,4]dioxino[2,3-h]-chromen-2-yl]methyl 4-methylbenzenesulfonate (0.60 g, 1.54 mmole) and potassium carbonate (0.22 g, 1.55 mmole) in 1:1 tetrahydrofuran/dimethyl-formamide (20 mL) was added 0.91 g (4.61 mmole) of 3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole. The reaction mixture was refluxed under nitrogen for 6 hours. After the reaction was complete, the mixture was evaporated to dryness under reduced pressure and the residue was column chromatographed on silica gel with methylene chloride to remove impurities and with 3% methanol/methylene chloride to elute the desired product. Evaporation of the product-containing fractions in vacuum gave 0.12 g (18%) of the (S)-enantiomer of the title compound as an off-white solid, m.p. 210° C.

reactant | [(2R)-7-oxo-2,3,8,9-tetrahydro-7H-[1,4]dioxino[2,3-h]-chromen-2-yl]methyl 4-methylbenzenesulfonate | 1.54 mmole, 0.60 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(C=CC=3C(CCOC23)=O)OC1 | C19H18O7S
reactant | potassium carbonate | 1.55 mmole, 0.22 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole | 4.61 mmole, 0.91 g | N1CCC(=CC1)C1=CNC2=CC=CC=C12 | C13H14N2
solvent | tetrahydrofuran dimethyl-formamide | 20 mL | O1CCCC1.CN(C=O)C
product | 3-[4-(1H-Indol-3-yl)-3,6-dihydro-2H-pyridin-1-ylmethyl]-2,3,6,7-tetrahydro-1,4,5-trioxa-phenanthren-8-one | N1C=C(C2=CC=CC=C12)C=1CCN(CC1)CC1COC2=CC=C3C(CCOC3=C2O1)=O | C25H24N2O4
